US03966942
A mixture of 6.12 g. (0.03 m.) of 3,4-dichlorophenyl isothiocyanate, 2.8 ml. (3.68 g., 0.04 m.) of mercaptoacetic acid and a few drops of triethylamine is heated in a pressure bottle at 110°-130°C. for 2 hours. The cooled reaction mixture is filtered to give 3-(3',4'-dichlorophenyl)-rhodanine, m.p. 176°-178°C.

reactant | 3,4-dichlorophenyl isothiocyanate | ClC=1C=C(C=CC1Cl)N=C=S | C7H3Cl2NS
reactant | mercaptoacetic acid | 3.68 g | SCC(=O)O | C2H4O2S
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
product | 3-(3',4'-dichlorophenyl)-rhodanine | ClC=1C=C(C=CC1Cl)N1C(SCC1=O)=S | C9H5Cl2NOS2
